US07265227B2
a) methyl 4-(3,4-dichlorophenoxy)-1-piperidinebutanoate
4-(3,4-Dichlorophenoxy)piperidine (4.15 g) was dissolved in acetone (80 ml). Potassium carbonate (2.42 g), sodium iodide (0.49 g) and then methyl 4-bromobutyrate (1.95 ml) were added and the mixture was stirred for 42 h. The solvent, was evaporated and the residue was partitioned between water and ethyl acetate. The aqueous phase was extracted with ethyl acetate. The organic phases were dried (MgSO4), filtered and evaporated and the residue was chromatographed eluting with ethyl acetate: triethylamine (99:1) to give the subtitle compound (4.52 g).

reactant | 4-(3,4-Dichlorophenoxy)piperidine | 4.15 g | ClC=1C=C(OC2CCNCC2)C=CC1Cl | C11H13Cl2NO
reactant | Potassium carbonate | 2.42 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.49 g | [I-].[Na+]
reactant | methyl 4-bromobutyrate | 1.95 ml | BrCCCC(=O)OC | C5H9BrO2
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | methyl 4-(3,4-dichlorophenoxy)-1-piperidinebutanoate | 4.52 g | ClC=1C=C(OC2CCN(CC2)CCCC(=O)OC)C=CC1Cl | C16H21Cl2NO3
